US03976635
To a solution of N-benzyloxycarbonyl-L-phenylalanine (1.5 g) and triethylamine (0.7 ml) in ethyl acetate (20 ml), ethyl 2-(2,4,5-trichlorophenyl)oxycarbonyloxyimino-2-cyanoacetate (1.9 g) is added, and the resulting mixture is stirred at room temperature for 4 hours. The reaction mixture is treated as in Example 16 to give N-benzyloxycarbonyl-L-phenylalanine 2,4,5-trichlorophenyl ester (1.9 g). M.P. 139° - 140°C.

reactant | N-benzyloxycarbonyl-L-phenylalanine | 1.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(2,4,5-trichlorophenyl)oxycarbonyloxyimino-2-cyanoacetate | 1.9 g | ClC1=C(C=C(C(=C1)Cl)Cl)OC(=O)ON=C(C(=O)OCC)C#N | C12H7Cl3N2O5
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-L-phenylalanine 2,4,5-trichlorophenyl ester | 1.9 g | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H18Cl3NO4
